US08114874B2
4-methyl-3-((8-(4-sulfamoylphenylamino)imidazo[1,2-a]pyridin-3-yl)ethynyl)-N-(4-(trifluoromethyl)pyridin-2-yl)benzamide
The title compound was synthesized from 3-ethynyl-N-(4-sulfamoylphenyl)imidazo[1,2-a]pyridin-8-amine and 3-iodo-4-methyl-N-(4-(trifluoromethyl)pyridin-2-yl)benzamide in a manner similar to that described for Example 12. The product was obtained as a solid: 591 m/z (M+H).

reactant | 3-ethynyl-N-(4-sulfamoylphenyl)imidazo[1,2-a]pyridin-8-amine | C(#C)C1=CN=C2N1C=CC=C2NC2=CC=C(C=C2)S(N)(=O)=O | C15H12N4O2S
reactant | 3-iodo-4-methyl-N-(4-(trifluoromethyl)pyridin-2-yl)benzamide | IC=1C=C(C(=O)NC2=NC=CC(=C2)C(F)(F)F)C=CC1C | C14H10F3IN2O
product | 4-methyl-3-((8-(4-sulfamoylphenylamino)imidazo[1,2-a]pyridin-3-yl)ethynyl)-N-(4-(trifluoromethyl)pyridin-2-yl)benzamide | CC1=C(C=C(C(=O)NC2=NC=CC(=C2)C(F)(F)F)C=C1)C#CC1=CN=C2N1C=CC=C2NC2=CC=C(C=C2)S(N)(=O)=O | C29H21F3N6O3S
